US04010193
2.86 g. of cyclohexylamino-ethanol are dissolved in 50 ml. of anhydrous ethyl acetate, whereupon gaseous hydrochloric acid is introduced until a pH value of 1 is reached. 4.61 g. of 3,4,5-trimethoxy-benzoyl chloride are added and the reaction mixture is refluxed under stirring for 8 hours. After cooling the precipitated crystalline mass is filtered by suction. 6.9 g. of N-2-ethyl-cyclohexylamino-3,4,5-trimethoxy-benzoate-hydrochloride are obtained. Mp.: 206°-208° C.

reactant | cyclohexylamino-ethanol | C1(CCCCC1)NC(C)O | C8H17NO
reactant | hydrochloric acid | Cl | ClH
reactant | 3,4,5-trimethoxy-benzoyl chloride | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-2-ethyl-cyclohexylamino-3,4,5-trimethoxy-benzoate-hydrochloride | Cl.CCN(C1CCCCC1)C1=C(C(=O)O)C=C(C(=C1OC)OC)OC | InChI=1S/C18H27NO5.ClH/c1-5-19(12-9-7-6-8-10-12)15-13(18(20)21)11-14(22-2)16(23-3)17(15)24-4;/h11-12H,5-10H2,1-4H3,(H,20,21);1H
